US07700641B2
Synthesis of 1′-[(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in PREPARATION 1A, and making non-critical variations using 1′-[(6-oxo-1,6-dihydropyridin-3-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 4-bromoindole, and methyl iodide to replace 1-bromopentane, the title compound was obtained (78%): mp 115-118° C.; 1H NMR (300 MHz, CDCl3) δ 7.39-7.23 (m, 3H), 7.18 (d, 1H), 7.06 (t, 1H), 6.87 (d, 1H), 6.57-6.48 (m, 2H), 6.02 (s, 1H), 5.87-5.83 (m, 2H), 4.90 (d, 1H), 4.75-4.52 (m, 3H), 3.51 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 177.8, 162.5, 155.9, 149.1, 142.4, 141.6, 139.7, 137.6, 132.1, 129.1, 124.4, 123.9, 121.3, 119.1, 114.0, 108.6, 102.8, 101.6, 93.7, 80.3, 58.2, 40.8, 38.0; MS (ES+) m/z 403.3 (M+1).

reactant | 1′-[(6-oxo-1,6-dihydropyridin-3-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | O=C1C=CC(=CN1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C22H16N2O5
reactant | 4-bromoindole | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | methyl iodide | CI | CH3I
reactant | 1-bromopentane | BrCCCCC | C5H11Br
product | 1′-[(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | CN1C=C(C=CC1=O)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C23H18N2O5
